US06248766B1
2,3-Dihydro-4-methoxy-5,7-dimethyl-1H-inden-1-one
A solution of 3-(2-methoxy-3,5-dimethylphenyl)propionic acid (8.80 g, 42.2 mmol) in thionyl chloride (80 mL) was refluxed for 1.5 hours. After cooling, the reaction mixture was concentrated under reduced pressure and the residue was dissolved in 1,2-dichloroethane (100 mL). To this solution was added anhydrous aluminum chloride (5.80 g, 43.5 mmol) gradually at 0° C. and the mixture was stirred at room temperature for 1.0 hour. After completion of the reaction, the reaction mixture was poured in iced water and extracted with 1,2-dichloroethane. The organic layer was washed serially with 1N-hydrochloric acid, saturated aqueous sodium hydrogen carbonate solution, and water, dried over MgSO4, and filtered. The filtrate was concentrated under reduced pressure to provide 6.90 g of the title compound. Yield 86%. Oil.

reactant | 3-(2-methoxy-3,5-dimethylphenyl)propionic acid | 42.2 mmol, 8.80 g | COC1=C(C=C(C=C1C)C)CCC(=O)O | C12H16O3
reactant | aluminum chloride | 43.5 mmol, 5.80 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | thionyl chloride | 80 mL | S(=O)(Cl)Cl | Cl2OS
solvent | water | O | H2O
product | 2,3-Dihydro-4-methoxy-5,7-dimethyl-1H-inden-1-one | 6.90 g, Yield 86% | COC1=C2CCC(C2=C(C=C1C)C)=O | C12H14O2
